US05166206
Step D: 6-Butyl-4-methoxycarbonyl-2-methyl-5-[(4-iodophenyl)methyl]pyrimidine
To a solution of 306 mg 6-butyl-4-cyano-2-methyl-5-[(4-iodophenyl)methyl]pyrimidine in 6 mL methanol was added 0.885 mL (~7.81 mmol) 30% H2O2 and 0.937 mL (2.34 mmol) 2.5N NaOH. The mixture was allowed to stir for 1 hour at room temperature. To the mixture was added ~1 mL HOAc. Solvent was removed in vacuo. The crude material (409 mg) was dissolved in ~20 mL methanol. To this was added 4.0 g Amberlyst-15®. The mixture was heated to 60° for 18 hours. After cooling to room temperature, ~5 mL pyridine was added. After stirring for 1 hour, the mixture was filtered through powdered cellulose flock, stripped of solvent in vacuo, stripped from toluene to remove remaining pyridine, then was medium pressure chromatographed on silica gel using 25% EtOAc/hexane to give 152 mg of the title compound, 46% yield. R f 0.21 in 30% EtOAc/hexane, visualized by UV and ammonium molybdate/ceric sulfate stain; 1H-NMR (300 MHz, CDCl3); δ7.58 (m, 2H0, 6.81 (m, 2H), 4.12 (s, 2H), 3.87 (s, 3H), 2.75 (s, 3H), 2.67 (3 line m, 2H), 1.53 (m, 2H), 1.31 (m, 2H), 0.86 (3 line m, 3H).

reactant | 6-butyl-4-cyano-2-methyl-5-[(4-iodophenyl)methyl]pyrimidine | 306 mg | C(CCC)C1=C(C(=NC(=N1)C)C#N)CC1=CC=C(C=C1)I | C17H18IN3
reactant | H2O2 | ~7.81 mmol, 0.885 mL | OO | H2O2
reactant | NaOH | 2.34 mmol, 2.5N, 0.937 mL | [OH-].[Na+]
reactant | HOAc | ~1 mL | CC(=O)O | C2H4O2
solvent | methanol | 6 mL | CO | CH4O
product | 6-Butyl-4-methoxycarbonyl-2-methyl-5-[(4-iodophenyl)methyl]pyrimidine | 152 mg, 46% yield | C(CCC)C1=C(C(=NC(=N1)C)C(=O)OC)CC1=CC=C(C=C1)I | C18H21IN2O2
